US07638541B2
2-{4-[4-(4-Methanesulfonyl-phenoxymethyl)-thiazol-2-yl]-piperidin-1-yl}-pyrimidine
A mixture of 4-[4-(4-methylsulfonyl-phenoxymethyl)-thiazole-2-yl]-piperidine hydrochloride (100 mg, 0.24 mmol), 2-chloropyrimidine (30 mg, 1.1 eq.) and diisopropylethylamine (122 mg, 4 eq.) in i-PrOH (5 mL) was heated at 90° C. for 1.5 hours. The solvent was removed in vacuo. The residue was purified on silica gel (60% EtOAc in hexanes) to afford the desired product. 1H NMR (CDCl3): δ 8.32 (2H, d, J=4.8 Hz), 7.88 (2H, d, J=8.8 Hz), 7.23 (1H, s), 7.12 (2H, d, J=8.8 Hz), 6.49 (1H, t, J=4.8 Hz), 5.24 (2H, s), 4.89 (2H, m), 3.32 (1H, m), 3.06 (2H, m), 3.04 (3H, s), 2.22 (2H, m), 1.81 (2H, m).

reactant | 4-[4-(4-methylsulfonyl-phenoxymethyl)-thiazole-2-yl]-piperidine hydrochloride | 0.24 mmol, 100 mg | Cl.CS(=O)(=O)C1=CC=C(OCC=2N=C(SC2)C2CCNCC2)C=C1
reactant | 2-chloropyrimidine | 30 mg, 1.1 eq. | ClC1=NC=CC=N1 | C4H3ClN2
reactant | diisopropylethylamine | 122 mg, 4 eq. | C(C)(C)N(CC)C(C)C | C8H19N
solvent | i-PrOH | 5 mL | CC(C)O | C3H8O
product | 2-{4-[4-(4-Methanesulfonyl-phenoxymethyl)-thiazol-2-yl]-piperidin-1-yl}-pyrimidine | CS(=O)(=O)C1=CC=C(OCC=2N=C(SC2)C2CCN(CC2)C2=NC=CC=N2)C=C1 | C20H22N4O3S2
